US05650270
N-Trichloroacryloyl-p-aminobenzoic acid (CCl2CClCO-ABA) (W9)
Trichloroacrylic acid (500 mg, 2.85 mmol; Alpha Chem. Co.) was added to 7 mL of SOCl2 and the mixture was refluxed for 6 h. After cooling, 5 mL of benzene was added and the solvent was concentrated on the rotary evaporator to 1/3 of its original volume. This step was repeated 4 times, until most of SOCl2 was evaporated. Three mL of acetonitrile were added followed by a suspension of 383 mg (2.80 mmol) of p-amino-benzoic acid in 3 mL of acetonitrile. After 30 min of stirring, TLC showed the disappearance of most starting material and the presence of a product with higher Rf value. The product was purified by preparative silica TLC (EtOAC/Hexane/acetic acid, 2:3:0.05) which gave a pure white powder (89% yield); MS (EI) m/z 293 (M+).

reactant | Trichloroacrylic acid | 2.85 mmol, 500 mg | ClC(=C(C(=O)O)Cl)Cl | C3HCl3O2
reactant | SOCl2 | 7 mL | O=S(Cl)Cl | Cl2OS
reactant | benzene | 5 mL | C1=CC=CC=C1 | C6H6
reactant | p-amino-benzoic acid | 2.80 mmol, 383 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | N-Trichloroacryloyl-p-aminobenzoic acid | 89% yield | ClC(C(=O)NC1=CC=C(C(=O)O)C=C1)=C(Cl)Cl | C10H6Cl3NO3
